US04061761
(Preparation of 2,4'-dibromo-3'-sulfamoylacetophenone: 5.35 g of 3'-amino-4'-bromoacetophenone, melting point: 113° C, were diazotized in 50 ml of semi-concentrated hydrochloric acid with 1.75 g of sodium nitrite at 0° - 5° C and then decomposed according to Meerwein with 62 ml of sulfur-dioxide-saturated glacial acetic acid solution and 2 g of copper-II-chloride-dihydrate. After the addition of 62 ml of water, the 4'-bromo-3'-chlorosulfonylacetophenone was obtained which melted at 107° C and could be introduced without further purification into about 50 ml of liquid ammonia. After evaporation of the ammonia and treatment with water, 4'-bromo-3'-sulfamoylacetophenone were obtained which melted at 161° C.

reactant | 2,4'-dibromo-3'-sulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Br)S(N)(=O)=O | C8H7Br2NO3S
reactant | 3'-amino-4'-bromoacetophenone | 5.35 g | NC=1C=C(C=CC1Br)C(C)=O | C8H8BrNO
reactant | sodium nitrite | 1.75 g | N(=O)[O-].[Na+]
reactant | sulfur-dioxide | 62 ml | S(=O)=O | O2S
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 62 ml | O | H2O
product | 4'-bromo-3'-chlorosulfonylacetophenone | BrC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C8H6BrClO3S
